US06423717B1
4-Bromo-N-[4-methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]benzenesulfonamide (E129)
The title compound (E129) was prepared from 4-methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phenylamine (free base of D39) (107 mg; 0.49 mmol) and 4-bromobenzenesulfonylchloride (125 mg, 0.49 mmol) using the method of Example 1 (179 mg, 77%) MH+=437/439.

reactant | 4-methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phenylamine | 0.49 mmol, 107 mg | COC1=C(C=C(C=C1)N)C=1CCN(CC1)C | C13H18N2O
reactant | 4-bromobenzenesulfonylchloride | 0.49 mmol, 125 mg | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | 4-Bromo-N-[4-methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=C(C=C1)OC)C=1CCN(CC1)C | C19H21BrN2O3S
